US07592477B2
Step b) Formation of ethyl{[2-(2-fluorophenyl)ethyl][4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}(oxo)acetate
To a solution of N-[2-(2-fluorophenyl)ethyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine (45.1 mg, 0.1 mmol) in anhydrous DCM (0.6 mL) was added the morpholinomethyl polystyrene resin (Novabiochem, HL, 39.5 mg, 0.15 mmol, 3.8 mmol/g) and the resulting mixture was cooled at 0° C. Ethyloxalyl chloride (4.7 mg, 0.13 mmol) in anhydrous DCM (0.4 mL) was added. The reaction mixture was stirred for 2 h at rt, then the PL-AMS-Resin (Polymer Laboratories, 52 mg, 0.1 mmol, 1.93 mmol/g) was added and the mixture stirred for 1.5 h. The resins were filtered off, washed with DCM, and the filtrates were concentrated under vacuum to afford the title compound as an oil.

reactant | N-[2-(2-fluorophenyl)ethyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | 0.1 mmol, 45.1 mg | FC1=C(C=CC=C1)CCNCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC | C28H38FN3O
reactant | morpholinomethyl polystyrene | 0.15 mmol, 39.5 mg | CN1CCOCC1 | C5H11NO
reactant | Ethyloxalyl chloride | 0.13 mmol, 4.7 mg | CCC(=O)C(=O)Cl | C4H5ClO2
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.4 mL | C(Cl)Cl | CH2Cl2
product | ethyl{[2-(2-fluorophenyl)ethyl][4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}(oxo)acetate | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)CCC1=C(C=CC=C1)F)=O | C32H42FN3O4
